US09107904B2
Synthesis of Fluorescein PEG Amphiphiles
PE lipids (1,2-dilauroyl-sn-glycero-3-phosphoethanolamine, DMPE; 1,2-dimyristoyl-sn-glycero-3-phosphoethanolamine, DMPE; 1,2-dihexadecanoyl-sn-glycero-3-phosphoethanolamine, DPPE; 1,2-dioctadecanoyl-sn-glycero-3-phosphoethanolamine, DSPE, Avanti polar lipids. Inc.) were dissolved in 500 uL CHCl3 and 500 uL DMF, 1.2 eq of fluorescein-PEG2000-NHS (creative PEG works Inc.) was added and the reaction mixture were agitated overnight, the amphiphilic fluorescein PEG amphiphiles were purified by reverse phase HPLC using a C4 column (BioBasic-4, 200 mm×4.6 mm, Thermo Scientific), 100 mM triethylamine-acetic acid buffer (TEAA, pH 7.5)-methanol (0-30 min, 10-100%) as an eluent.

reactant | 1,2-dilauroyl-sn-glycero-3-phosphoethanolamine | C(CCCCCCCCCCC)(=O)OC[C@@H](OC(CCCCCCCCCCC)=O)COP(=O)(O)OCCN | C29H58NO8P
reactant | DMPE | CP(C)CCP(C)C | C6H16P2
reactant | 1,2-dimyristoyl-sn-glycero-3-phosphoethanolamine | C(CCCCCCCCCCCCC)(=O)OC[C@@H](OC(CCCCCCCCCCCCC)=O)COP(=O)(O)OCCN | C33H66NO8P
reactant | 1,2-dihexadecanoyl-sn-glycero-3-phosphoethanolamine | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H](OC(CCCCCCCCCCCCCCC)=O)COP(=O)(O)OCCN | C37H74NO8P
reactant | DPPE | CCN(CC)CCOC=1C=CC(=CC1)CC=2C=CC=CC2.Cl
reactant | 1,2-dioctadecanoyl-sn-glycero-3-phosphoethanolamine | C(CCCCCCCCCCCCCCCCC)(=O)OC[C@@H](OC(CCCCCCCCCCCCCCCCC)=O)COP(=O)(O)OCCN | C41H82NO8P
reactant | DSPE | CCCCCCCCCCCCCCCCCC(=O)OCC(COP(=O)(O)OCCN)OC(=O)CCCCCCCCCCCCCCCCC | C41H82NO8P
solvent | CHCl3 | 500 uL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 500 uL | CN(C)C=O | C3H7NO
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
